US05189036
1-[4-(1H-Imidazol-1-yl)benzoyl]-4-piperidinamine dihydrochloride
[1-(4-(1H-Imidazol-1-yl)benzoyl]-4-piperidinyl]carbamic acid, 1,1-dimethylethyl ester (131.6 g, 355 mmol) is dissolved in methanol (800 mL) at 0° C., and the solution is saturated with HCl gas. The mixture is stirred for 3 hr at room temperature, after which ether is added to give a turbid solution. The resulting precipitate is collected and air dried to afford the title compound.

reactant | [1-(4-(1H-Imidazol-1-yl)benzoyl]-4-piperidinyl]carbamic acid, 1,1-dimethylethyl ester | 355 mmol, 131.6 g | N1(C=NC=C1)C1=CC=C(C(=O)N2CCC(CC2)NC(OC(C)(C)C)=O)C=C1 | C20H26N4O3
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | methanol | 800 mL | CO | CH4O
product | 1-[4-(1H-Imidazol-1-yl)benzoyl]-4-piperidinamine dihydrochloride | Cl.Cl.N1(C=NC=C1)C1=CC=C(C(=O)N2CCC(CC2)N)C=C1 | InChI=1S/C15H18N4O.2ClH/c16-13-5-8-18(9-6-13)15(20)12-1-3-14(4-2-12)19-10-7-17-11-19;;/h1-4,7,10-11,13H,5-6,8-9,16H2;2*1H
